US05508407
Preparation of [1S-(1R*, 4R*, 5S*)]-N-(1-(2-amino-2-oxoethyl)-2-oxo-3-aza-4-phenylmethyl-5-hydroxy-6-(2-(1-t-butylamino-1-oxomethyl)phenyl)hexyl)-2-quinolinyl carboxamide
A solution of 500 mg [R-(R*, S*)]-N-t-butyl-2-(3-amino-2-hydroxypropyl)benzamide (1.46 mmol) in 10 mL anhydrous THF was prepared in a single necked 50 mL round bottom flask. To this was added 443 mg (S)-2-(2-N-quinolinylcarboxy)-2,4-diamino-1,4-butanedioic acid (1.54 mmol), 208 mg HOBT·H2O (1.54 mmol), and 1.75 mL anhydrous DMF (enough to obtain a homogeneous solution). The solution was cooled to -10° C. in an ice/acetone bath, and 309 mg dicyclohexylcarbodiimide (DCC) (1.50 mmol) was added in one portion. The mixture was stirred under N2 at -10° C. for 20 minutes, and then at 0° C. for 1 hour. The stirring solution was then allowed to warm to room temperature and stir overnight, during which time the dicyclohexylurea precipitate began to form. After stirring overnight, the reaction mixture was cooled to 0° C. and filtered to remove the precipitate. The filtrate was concentrated in vacuo, and the residue taken up in 50 mL ethyl acetate. The ethyl acetate solution was washed once with 20 mL water, once with 15 mL saturated NaHCO3, once with 15 mL 5% citric acid, and once with 20 mL brine. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting foam was purified by radial chromatography (1.0 mm plate, 0-10% MeOH/CH2Cl2 gradient), affording 487 mg (55%) of the desired product as a single diastereomer as determined by 300 MHz 1H NMR.

reactant | HOBT·H2O | 1.54 mmol, 208 mg | C=1C=CC2=C(C1)N=NN2O.O
reactant | DMF | 1.75 mL | CN(C)C=O | C3H7NO
reactant | dicyclohexylcarbodiimide | 1.50 mmol, 309 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-t-butyl-2-(3-amino-2-hydroxypropyl)benzamide | 1.46 mmol | C(C)(C)(C)NC(C1=C(C=CC=C1)CC(CN)O)=O | C14H22N2O2
